US08134004B2
Step CA7C: 6-(1-Methylcyclopropyl)-2-naphthoic acid
A mixture of Methyl 6-(1-methylcyclopropyl)-2-naphthoate (crude 0.91 g, 2.5 mmol) and 2M sodium hydroxide solution (3.8 ml) in methanol (7.6 ml) was heated at 60° C. for 2 hours. After cooling to room temperature, the mixture was washed with diethyl ether (100 ml). The aqueous layer was acidified to pH<3 with 2M hydrochloric acid solution and the mixture was extracted with dichloromethane-methanol (10:1, 150 ml×3 times). The combined organic layers were dried over sodium sulfate and concentrated in vacuo to give 0.444 g (78% yield for 2 steps) of the title compound as white solid. 1H NMR (300 MHz, DMSO-d6) ppm 0.77-0.92 (2H, m), 0.95-1.11 (2H, m), 1.49 (3H, s), 7.42 (1H, d, J=8.8 Hz), 7.84 (1H, s), 7.90-7.97 (2H, m), 8.01 (1H, d, J=8.8 Hz), 8.54 (1H, s). MS (ESI): m/z 225 (M−H)−.

reactant | Methyl 6-(1-methylcyclopropyl)-2-naphthoate | CC1(CC1)C=1C=C2C=CC(=CC2=CC1)C(=O)OC | C16H16O2
reactant | sodium hydroxide | 2M, 3.8 ml | [OH-].[Na+]
solvent | methanol | 7.6 ml | CO | CH4O
product | 6-(1-Methylcyclopropyl)-2-naphthoic acid | 78% yield | CC1(CC1)C=1C=C2C=CC(=CC2=CC1)C(=O)O | C15H14O2
